US09079919B2
(R)—N-(2′-Amino-5′,5′-difluoro-3,4,5′,6′-tetrahydro-2H-spiro[naphthalene-1,4′-[1,3]oxazine]-7-yl)-5-chloropicolinamide
The condensation of (R)-5′,5′-difluoro-3,4,5′,6′-tetrahydro-2H-spiro[naphthalene-1,4′-[1,3]oxazine]-2′,7-diamine (intermediate A7.1) and 5-chloropicolinic acid yielded the title compound (42% yield) as a white solid. MS (ISP): m/z=407.2 [M+H]+.

reactant | (R)-5′,5′-difluoro-3,4,5′,6′-tetrahydro-2H-spiro[naphthalene-1,4′-[1,3]oxazine]-2′,7-diamine | FC1([C@@]2(N=C(OC1)N)CCCC1=CC=C(C=C12)N)F | C13H15F2N3O
reactant | 5-chloropicolinic acid | ClC=1C=CC(=NC1)C(=O)O | C6H4ClNO2
product | (R)—N-(2′-Amino-5′,5′-difluoro-3,4,5′,6′-tetrahydro-2H-spiro[naphthalene-1,4′-[1,3]oxazine]-7-yl)-5-chloropicolinamide | 42% yield | NC=1OCC([C@@]2(N1)CCCC1=CC=C(C=C12)NC(C1=NC=C(C=C1)Cl)=O)(F)F | C19H17ClF2N4O2
